US04616007
(1ab) 4-(1-Methyltetrazol-5-ylthio)-butyric acid
2.93 g of 4-(1-methyltetrazol-5-ylthio)-butyric acid ethyl ester are dissolved in 50 ml of THF, 15 ml of 1N NaOH are added and the whole is stirred for 3 hours at room temperature. Most of the THF is then concentrated by evaporation under reduced pressure in a rotary evaporator and the residue is washed with ethyl acetate. The aqueous solution is adjusted to pH 3 with 4N HCl and extracted three times with ethyl acetate. After drying over sodium sulphate and concentration by evaporation under reduced pressure, the pure title compound is obtained.

reactant | 4-(1-methyltetrazol-5-ylthio)-butyric acid ethyl ester | 2.93 g | C(C)OC(CCCSC1=NN=NN1C)=O | C8H14N4O2S
reactant | NaOH | 1N, 15 ml | [OH-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(1-Methyltetrazol-5-ylthio)-butyric acid | CN1N=NN=C1SCCCC(=O)O | C6H10N4O2S
